US08236806B2
4-(3-(1-tert-butyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine (Compound 108)
89 mg (99%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-tert-butyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propanal (50 mg, 0.191 mmol), 2-methyl-1-m-tolylpiperazine (36 mg, 0.191 mmol), DIPEA (0.050 mL, 0.287 mmol) and NaBH(OAc)3 (121 mg, 0.573 mmol).

reactant | 3-(1-tert-butyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propanal | 0.191 mmol, 50 mg | C(C)(C)(C)N1N=C(C=C1C=1SC=CC1)CCC=O | C14H18N2OS
reactant | 2-methyl-1-m-tolylpiperazine | 0.191 mmol, 36 mg | CC1N(CCNC1)C=1C=C(C=CC1)C | C12H18N2
reactant | DIPEA | 0.287 mmol, 0.050 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.573 mmol, 121 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 4-(3-(1-tert-butyl-5-(thiophene-2-yl)-1H-pyrazol-3-yl)propyl)-2-methyl-1-m-tolylpiperazine | C(C)(C)(C)N1N=C(C=C1C=1SC=CC1)CCCN1CC(N(CC1)C=1C=C(C=CC1)C)C | C26H36N4S
